US08202885B2
BB6.1 3-Ethoxy-benzene-1,2-diamine
Prepared from iodoethan in analogy to 3-isopropoxy-benzene-1,2-diamine.

reactant | iodoethan | ICC | C2H5I
reactant | 3-isopropoxy-benzene-1,2-diamine | C(C)(C)OC1=C(C(=CC=C1)N)N | C9H14N2O
product | 3-Ethoxy-benzene-1,2-diamine | C(C)OC1=C(C(=CC=C1)N)N | C8H12N2O
